### PR TITLE
[Merged by Bors] - feat port: Data.Erased

### PR DESCRIPTION
**Pull request by ChrisHughes24**
10b4e499f43088dd3bb7b5796184ad5216648ab1

One instance at the end is a bit longer because we don't have `refine' { .. }`. No other issues

### CODE REVIEW

File: Mathlib/Data/Erased.lean [hunk 1]
```diff
@@ -0,0 +1,167 @@
...
+@[simp]
+theorem out_mk {α} (a : α) : (mk a).out = a := by
+  let h := (mk a).2; show Classical.choose h = a
+  have := Classical.choose_spec h
+  exact cast (congr_fun this a).symm rfl
+#align erased.out_mk Erased.out_mk
+
+@[simp]
+theorem mk_out {α} : ∀ a : Erased α, mk (out a) = a
+  | ⟨s, h⟩ => by simp [mk] ; congr ; exact Classical.choose_spec h
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Erased.lean:63]: I think standard style doesn't have a space before the semicolon

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by dupuisf** [comment]
Looks good apart from that stylistic detail -- LGTM.

bors d+

**Comment by ChrisHughes24** [comment]
bors merge
